US07807671B2
A mixture of 1-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (50 mg, 0.1 mmol), potassium carbonate (13 mg, 0.1 mmol), copper (6.0 mg, 0.1 mmol) and 3-methylpyrazole (32 uL, 0.4 mmol) in N-methylpyrrolidinone (0.5 mL) was heated at 160° C. for 6 h. MeOH (3 mL) was added and the solution was filtered through Celite. Solvent was removed in vacuum and residue was dissolved in DMF and purified using reverse phase prep HPLC to afford 1-(4-fluoro-7-(3-methyl-1H-pyrazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (6.9 mg) as a white solid; 1HNMR (500 MHz, CDCl3) δ 8.46 (d, J=2 Hz, 1H), 8.19 (s, 1H), 8.93 (d, J=2.0 Hz, 1H), 7.55-7.50 (m, 5H), 6.25 (d, J=2.0 Hz, 1H), 3.78 (m, 2H), 3.56 (m, 2H), 3.35 (m, 2H), 3.25 (m, 2H), 2.36 (s, 3H). LCMS: m/e 501 (M+H)+, ret time 2.34 min (method 2) and 1-(4-fluoro-7-(5-methyl-1H-pyrazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione (13.7 mg); 1HNMR (500 MHz, CDCl3) δ 8.25 (m, 1H), 8.08 (bs, 1H), 7.65 (m, 1H), 7.60 (m, 5H), 6.27 (m, 1H), 3.87 (m, 2H), 3.66 (m, 2H), 3.46 (m, 2H), 3.36 (m, 2H), 2.83 (s, 3H). LCMS: m/e 501 (M+H)+, ret time 2.34 min (method 2).

reactant | 1-(7-bromo-4-fluoro-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 0.1 mmol, 50 mg | BrC=1N=CC(=C2C1NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O)F | C20H16BrFN8O2
reactant | potassium carbonate | 0.1 mmol, 13 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methylpyrazole | 0.4 mmol, 32 uL | CC1=NNC=C1 | C4H6N2
reactant | MeOH | 3 mL | CO | CH4O
solvent | N-methylpyrrolidinone | 0.5 mL | CN1C(CCC1)=O | C5H9NO
catalyst | copper | 0.1 mmol, 6.0 mg | [Cu] | Cu
product | 1-(4-fluoro-7-(3-methyl-1H-pyrazol-1-yl)-1H-pyrrolo[2,3-c]pyridin-3-yl)-2-(4-(1-phenyl-1H-tetrazol-5-yl)piperazin-1-yl)ethane-1,2-dione | 6.9 mg | FC1=C2C(=C(N=C1)N1N=C(C=C1)C)NC=C2C(C(=O)N2CCN(CC2)C2=NN=NN2C2=CC=CC=C2)=O | C24H21FN10O2
